US07183306B2
To a mixture of (2-{4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenoxy}ethyl)amine hydrochloride (150 mg) in CHCl3 (2 ml) and saturated aqueous sodium bicarbonate solution (1 ml) was added thiophosgene (68.8 mg) under ice-bath cooling. The mixture was stirred at ambient temperature for 5 hours. To the mixture was added 28% aqueous ammonium hydroxide (1 ml) and the mixture was stirred at ambient temperature overnight. To the mixture were added 28% aqueous ammonium hydroxide (1 ml) and MeOH (1 ml) and the mixture was stirred at r.t. for 7 hours. The reaction mixture was partitioned between AcOEt and H2O. The organic layer was washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was crystallized from ACOEt-IPE. The obtained powder was recrystallized from AcOEt-n-hexane to give N-(2-{4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenoxy}ethyl)thiourea (116 mg) as a powder.

reactant | (2-{4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenoxy}ethyl)amine hydrochloride | 150 mg | Cl.COC1=NN(C(=C1)C1=CC=C(OCCN)C=C1)C1=CC=C(C=C1)OC
reactant | thiophosgene | 68.8 mg | C(=S)(Cl)Cl | CCl2S
reactant | ammonium hydroxide | 1 ml | [OH-].[NH4+]
reactant | ammonium hydroxide | 1 ml | [OH-].[NH4+]
reactant | MeOH | 1 ml | CO | CH4O
solvent | CHCl3 | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium bicarbonate | 1 ml | C([O-])(O)=O.[Na+]
product | N-(2-{4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]phenoxy}ethyl)thiourea | 116 mg | COC1=NN(C(=C1)C1=CC=C(OCCNC(=S)N)C=C1)C1=CC=C(C=C1)OC | C20H22N4O3S
